US07446118B2
To a solution of 6-bromo-1H-indole (2.5 g, 12.8 mmol) in DMF (10 ml) was slowly added NaH (354 mg, 14.0 mmol) at room temperature. The resulting mixture was stirred for 20 min at RT after which Mel (956 μl, 15.4 mmol) was added. The mixture was stirred for 1 hour at room temperature and then partitioned between DCM and brine. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to provide 6-Bromo-1-methyl-1H-indole CXLII in quantitative yield (2.7 g).

reactant | 6-bromo-1H-indole | 12.8 mmol, 2.5 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NaH | 14.0 mmol, 354 mg | [H-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-1-methyl-1H-indole | quantitative yield | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
